*  Sonnet Data File
*  From: emgraph Version : 16.56
*  From Project: Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness
*  Data is De-embedded 
*  Data File Written: 03/24/2020 17:01:58
* < HDATE 03/06/2020 17:23:53
* < MDATE 03/06/2020 17:24:47
* < PARAMS
* < ILD_thickness = 0.4
* < ILD_dielectric_const = 3.7
* < END PARAMS
*  Spice Data
* Limits: C>0.01pF L<100.0nH R<1000.0Ohms K>0.01
    *  Analysis frequencies: 100.0, 110.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param36_0 1 2 3 4 REF
C_C1 1 REF 0.3516653114479pf
C_C2 1 2 16.016350870272pf
C_C3 1 3 0.0199194802209pf
C_C4 1 4 0.2059543309641pf
C_C5 2 REF 0.5499032863658pf
C_C6 2 3 0.1284115862815pf
C_C7 3 REF 0.3604008837585pf
C_C8 3 4 6.895136395731pf
C_C9 4 REF 0.419272399589pf
L_L1 3 5 1.3054680754369nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param36_0

    *  Analysis frequencies: 110.0, 120.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param36_1 1 2 3 4 REF
C_C1 1 REF 0.3585165721468pf
C_C2 1 2 16.107928314364pf
C_C3 1 3 0.0162552202299pf
C_C4 1 4 0.2114668191862pf
C_C5 2 REF 0.5599538037678pf
C_C6 2 3 0.1198746166012pf
C_C7 3 REF 0.3726288544809pf
C_C8 3 4 5.1224038980431pf
C_C9 4 REF 0.406651617702pf
L_L1 3 5 1.3069052737076nh
R_RL1 5 4 2.1326230126e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param36_1

    *  Analysis frequencies: 120.0, 130.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param36_2 1 2 3 4 REF
C_C1 1 REF 0.3550633740883pf
C_C2 1 2 16.225948008597pf
C_C3 1 3 0.0137194996812pf
C_C4 1 4 0.2159513812705pf
C_C5 2 REF 0.5599360169204pf
C_C6 2 3 0.1143357452141pf
C_C7 3 REF 0.380728102542pf
C_C8 3 4 3.8831008022966pf
C_C9 4 REF 0.3981682086114pf
L_L1 3 5 1.3081098528637nh
R_RL1 5 4 1.3231780031e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param36_2

    *  Analysis frequencies: 130.0, 145.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param36_3 1 2 3 4 REF
C_C1 1 REF 0.3447652026006pf
C_C2 1 2 16.412352328665pf
C_C3 1 3 0.0116061143389pf
C_C4 1 4 0.2206361183689pf
C_C5 2 REF 0.5542805518042pf
C_C6 2 3 0.1101762933622pf
C_C7 3 REF 0.3870312346762pf
C_C8 3 4 2.8151879230202pf
C_C9 4 REF 0.3914529105045pf
L_L1 3 5 1.3093307737779nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param36_3

    *  Analysis frequencies: 145.0, 160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param36_4 1 2 3 4 REF
C_C1 1 REF 0.3309671168439pf
C_C2 1 2 16.686705365825pf
C_C3 1 4 0.2255309029114pf
C_C4 2 REF 0.5464664683657pf
C_C5 2 3 0.1076131599883pf
C_C6 3 REF 0.3912848930734pf
C_C7 3 4 1.9578426775648pf
C_C8 4 REF 0.3868256484391pf
L_L1 3 5 1.310551173206nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param36_4

    *  Analysis frequencies: 160.0, 175.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param36_5 1 2 3 4 REF
C_C1 1 REF 0.3186373168152pf
C_C2 1 2 17.021393997463pf
C_C3 1 4 0.2301787213423pf
C_C4 2 REF 0.540668269092pf
C_C5 2 3 0.1067223958424pf
C_C6 3 REF 0.3933794353537pf
C_C7 3 4 1.3892960614917pf
C_C8 4 REF 0.3844774232763pf
L_L1 3 5 1.3115381109662nh
R_RL1 5 4 -1.567245636e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param36_5

    *  Analysis frequencies: 175.0, 190.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param36_6 1 2 3 4 REF
C_C1 1 REF 0.3086103190043pf
C_C2 1 2 17.41947013518pf
C_C3 1 4 0.234970363146pf
C_C4 2 REF 0.5377885730429pf
C_C5 2 3 0.1068804898697pf
C_C6 3 REF 0.3942689914484pf
C_C7 3 4 0.9989264373237pf
C_C8 4 REF 0.3834268157203pf
L_L1 3 5 1.3123501275476nh
R_RL1 5 4 -2.31774211e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param36_6

    *  Analysis frequencies: 190.0, 210.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param36_7 1 2 3 4 REF
C_C1 1 REF 0.2994689743254pf
C_C2 1 2 17.974166046006pf
C_C3 1 4 0.2411365554078pf
C_C4 2 REF 0.5379422820207pf
C_C5 2 3 0.1079653919816pf
C_C6 3 REF 0.3944831168072pf
C_C7 3 4 0.6865322156272pf
C_C8 4 REF 0.3831059754175pf
L_L1 3 5 1.3131171420495nh
R_RL1 5 4 -3.038596697e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param36_7

    *  Analysis frequencies: 210.0, 230.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param36_8 1 2 3 4 REF
C_C1 1 REF 0.2912381020618pf
C_C2 1 2 18.725454934492pf
C_C3 1 4 0.2491825091901pf
C_C4 2 REF 0.5416263313269pf
C_C5 2 3 0.1100036440631pf
C_C6 3 REF 0.3942295045124pf
C_C7 3 4 0.445119542715pf
C_C8 4 REF 0.3832990725758pf
L_L1 3 5 1.3138421621835nh
R_RL1 5 4 -3.684119838e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param36_8

    *  Analysis frequencies: 230.0, 255.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param36_9 1 2 3 4 REF
C_C1 1 REF 0.2832636564187pf
C_C2 1 2 19.752862009964pf
C_C3 1 4 0.2600360779487pf
C_C4 2 REF 0.5492209544795pf
C_C5 2 3 0.1131672500117pf
C_C6 3 REF 0.3936918824526pf
C_C7 3 4 0.2663369202552pf
C_C8 4 REF 0.3838061139998pf
L_L1 3 5 1.314486938239nh
R_RL1 5 4 -4.167535735e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param36_9

    *  Analysis frequencies: 255.0, 280.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param36_10 1 2 3 4 REF
C_C1 1 REF 0.2743792704522pf
C_C2 1 2 21.137574383587pf
C_C3 1 4 0.2746587475616pf
C_C4 2 REF 0.5606331503919pf
C_C5 2 3 0.1176536106857pf
C_C6 3 REF 0.3930462336415pf
C_C7 3 4 0.1361429707881pf
C_C8 4 REF 0.3844283390532pf
L_L1 3 5 1.3150565295877nh
R_RL1 5 4 -4.439438271e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param36_10

    *  Analysis frequencies: 280.0, 310.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param36_11 1 2 3 4 REF
C_C1 1 REF 0.2628826112545pf
C_C2 1 2 23.042052695649pf
C_C3 1 4 0.2948911586888pf
C_C4 2 REF 0.5763510295471pf
C_C5 2 3 0.124023759525pf
C_C6 3 REF 0.3923955426109pf
C_C7 3 4 0.0439498038471pf
C_C8 4 REF 0.3850437813209pf
L_L1 1 5 64.131211385012nh
R_RL1 5 2 5.4154887475797
L_L2 3 6 1.3155131193185nh
R_RL2 6 4 -4.423847349e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param36_11

    *  Analysis frequencies: 310.0, 340.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param36_12 1 2 3 4 REF
C_C1 1 REF 0.2468371672377pf
C_C2 1 2 25.667223265669pf
C_C3 1 4 0.3230273064258pf
C_C4 2 REF 0.5971547378998pf
C_C5 2 3 0.133077681796pf
C_C6 3 REF 0.3917902768352pf
C_C7 4 REF 0.3855930796463pf
L_L1 1 5 37.0270679698nh
R_RL1 5 2 3.1633307406009
L_L2 3 6 1.3157055198109nh
R_RL2 6 4 -4.062656808e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param36_12

    *  Analysis frequencies: 340.0, 375.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param36_13 1 2 3 4 REF
C_C1 1 REF 0.2230816673756pf
C_C2 1 2 29.427345491544pf
C_C3 1 4 0.3637021195499pf
C_C4 2 REF 0.6254949687586pf
C_C5 2 3 0.1464717929043pf
C_C6 3 REF 0.391232464848pf
C_C7 4 REF 0.3860788449942pf
R_R1 1 2 -934.7108615604
L_L1 1 5 -35.38682045284nh
R_RL1 5 2 91.654983076733
L_L2 3 6 1.3154654864747nh
R_RL2 6 4 -3.122794442e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param36_13

    *  Analysis frequencies: 375.0, 410.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param36_14 1 2 3 4 REF
C_C1 1 REF 0.1871035232497pf
C_C2 1 2 34.962230903031pf
C_C3 1 4 0.4238949250403pf
C_C4 2 REF 0.6655389011306pf
C_C5 2 3 0.1666164063295pf
C_C6 3 REF 0.3906960138965pf
C_C7 4 REF 0.3865541783654pf
R_R1 1 2 -581.3974736773
L_L1 1 5 15.929444241569nh
R_RL1 5 2 2.4693310520488
L_L2 3 6 1.315056558654nh
R_RL2 6 4 -2.236755608e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param36_14

    *  Analysis frequencies: 410.0, 450.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param36_15 1 2 3 4 REF
C_C1 1 REF 0.1290221762099pf
C_C2 1 2 43.72459646888pf
C_C3 1 4 0.5190848246533pf
C_C4 2 REF 0.7271448220254pf
C_C5 2 3 0.1985756815284pf
C_C6 3 REF 0.3901315983171pf
C_C7 4 REF 0.3871339288753pf
R_R1 1 2 -389.4111282768
L_L1 1 5 8.7132391214857nh
R_RL1 5 2 1.0054162086053
L_L2 3 6 1.3143494113018nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param36_15

    *  Analysis frequencies: 450.0, 495.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param36_16 1 2 3 4 REF
C_C1 1 REF 0.019150899266pf
C_C2 1 2 60.103530005175pf
C_C3 1 4 0.6960387407246pf
C_C4 2 REF 0.8403670473638pf
C_C5 2 3 0.2575485756737pf
C_C6 3 REF 0.3894021362046pf
C_C7 4 REF 0.3881372335158pf
R_R1 1 2 -263.7224053794
L_L1 1 5 4.5165480100304nh
R_RL1 5 2 0.3517742940909
L_L2 3 6 1.3130405161083nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param36_16

    *  Analysis frequencies: 495.0, 545.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param36_17 1 2 3 4 REF
C_C1 1 2 97.24753314617pf
C_C2 1 4 1.0956289638673pf
C_C3 2 REF 1.0948542460654pf
C_C4 2 3 0.3897456558783pf
C_C5 3 REF 0.3881759757pf
C_C6 4 REF 0.3905270948349pf
R_R1 1 2 -174.1613753977
L_L1 1 5 1.6050557741043nh
R_RL1 5 2 0.1095604572789
L_L2 1 6 69.954878110695nh
R_RL2 6 3 0.0672155308764
L_L3 1 7 69.211409719947nh
R_RL3 7 4 0.0678043963779
L_L4 2 8 70.040222747592nh
R_RL4 8 3 0.0055690158494
L_L5 2 9 69.299628669838nh
R_RL5 9 4 0.0054158300825
L_L6 3 10 1.3101582787392nh
R_RL6 10 4 2.4868245e-5
Kn_K1 L_L1 L_L2 0.0717095478714
Kn_K2 L_L1 L_L3 0.0719573160387
Kn_K3 L_L1 L_L4 -0.079715132173
Kn_K4 L_L1 L_L5 -0.08027621954
Kn_K5 L_L2 L_L3 0.990599799444
Kn_K6 L_L2 L_L4 0.988535098383
Kn_K7 L_L2 L_L5 0.9790557655595
Kn_K8 L_L2 L_L6 -0.10725575768
Kn_K9 L_L3 L_L4 0.9791031192996
Kn_K10 L_L3 L_L5 0.9884122736745
Kn_K11 L_L3 L_L6 0.0297553276731
Kn_K12 L_L4 L_L5 0.9906113822168
Kn_K13 L_L4 L_L6 -0.107040365059
Kn_K14 L_L5 L_L6 0.0298872084415
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param36_17

    *  Analysis frequencies: 545.0, 600.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param36_18 1 2 3 4 REF
C_C1 1 2 223.52037632573pf
C_C2 1 4 2.4531461024838pf
C_C3 2 REF 1.9565285645328pf
C_C4 2 3 0.8378849218809pf
C_C5 3 REF 0.3847645939558pf
C_C6 4 REF 0.3993289387834pf
R_R1 1 2 -109.9742365856
L_L1 1 5 64.024524780305nh
R_RL1 5 REF -0.045354387574
L_L2 1 6 0.473051980747nh
R_RL2 6 2 0.0183161870705
L_L3 1 7 23.925419824634nh
R_RL3 7 3 0.0108543635985
L_L4 1 8 23.232466387235nh
R_RL4 8 4 0.0111325755823
L_L5 2 9 63.628500610467nh
R_RL5 9 REF -0.026018354112
L_L6 2 10 24.003481510123nh
R_RL6 10 3 0.0011946171961
L_L7 2 11 23.314467932554nh
R_RL7 11 4 0.0011033893537
L_L8 3 12 87.378671550928nh
R_RL8 12 REF -0.035317081184
L_L9 3 13 1.30055228474nh
R_RL9 13 4 3.8182519055e-5
L_L10 4 14 86.675646729212nh
R_RL10 14 REF -0.035223923112
Kn_K1 L_L1 L_L2 0.0789587422859
Kn_K2 L_L1 L_L5 0.9962990305255
Kn_K3 L_L1 L_L8 0.8521745962006
Kn_K4 L_L1 L_L10 0.8555560054963
Kn_K5 L_L2 L_L3 0.0587046108435
Kn_K6 L_L2 L_L4 0.0589794457137
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.081774826936
Kn_K9 L_L2 L_L7 -0.083567552573
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9725263205331
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9901314441718
Kn_K15 L_L3 L_L7 0.9624524595685
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.178687346308
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9626638922484
Kn_K21 L_L4 L_L7 0.9898386329696
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0552682074068
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8516433945169
Kn_K26 L_L5 L_L10 0.8549959175562
Kn_K27 L_L6 L_L7 0.972617729263
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.178043981706
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0555286726886
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.0939743732573
Kn_K35 L_L8 L_L10 0.9925359905382
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param36_18

    *  Analysis frequencies: 600.0, 660.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param36_19 1 2 3 4 REF
C_C1 1 2 2904.2242736148pf
C_C2 1 4 31.288995455921pf
C_C3 2 REF 20.224625345684pf
C_C4 2 3 10.354119527101pf
C_C5 3 REF 0.3194677549652pf
C_C6 4 REF 0.5952701440731pf
R_R1 1 REF -395.926571491
R_R2 1 2 2.6900357985062
R_R3 1 3 -756.5346628694
R_R4 1 4 250.46244631199
R_R5 2 REF 395.9904050454
R_R6 2 3 756.79777449068
R_R7 2 4 -250.5530459385
L_L1 1 5 3.0018911605752nh
R_RL1 5 REF -8.83536616e-5
L_L2 1 6 0.0247254487822nh
R_RL2 6 2 -3.237348144e-3
L_L3 1 7 2.0430407419862nh
R_RL3 7 3 -1.309683704e-3
L_L4 1 8 1.4709624334971nh
R_RL4 8 4 -2.014528127e-3
L_L5 2 9 2.9860432576993nh
R_RL5 9 REF -3.32083715e-3
L_L6 2 10 2.0472268714222nh
R_RL6 10 3 -4.013948838e-4
L_L7 2 11 1.4796535708604nh
R_RL7 11 4 -1.404184559e-4
L_L8 3 12 5.0193151516555nh
R_RL8 12 REF -1.393080705e-3
L_L9 3 13 1.1195942534863nh
R_RL9 13 4 -4.224580147e-5
L_L10 4 14 4.4411200432583nh
R_RL10 14 REF -2.103326438e-3
Kn_K1 L_L1 L_L2 0.0744631367598
Kn_K2 L_L1 L_L5 0.9958742762191
Kn_K3 L_L1 L_L8 0.770048784878
Kn_K4 L_L1 L_L10 0.8178047390532
Kn_K5 L_L2 L_L3 0.0456925553422
Kn_K6 L_L2 L_L4 0.0420385217738
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.064252011084
Kn_K9 L_L2 L_L7 -0.087353431419
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 -0.01353826909
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.6906038926898
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9939555740731
Kn_K16 L_L3 L_L7 0.6826660837262
Kn_K17 L_L3 L_L8 0.933420204438
Kn_K18 L_L3 L_L9 -0.559264774061
Kn_K19 L_L3 L_L10 0.9913079297156
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.6852775225323
Kn_K22 L_L4 L_L7 0.9916245435165
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.2133220038623
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L8 0.7695021034965
Kn_K27 L_L5 L_L10 0.8166027948099
Kn_K28 L_L6 L_L7 0.6915677277339
Kn_K29 L_L6 L_L8 0.9293405177756
Kn_K30 L_L6 L_L9 -0.557204868282
Kn_K31 L_L6 L_L10 0.9862248078301
Kn_K32 L_L7 L_L8 1.0
Kn_K33 L_L7 L_L9 0.2144446486632
Kn_K34 L_L7 L_L10 1.0
Kn_K35 L_L8 L_L9 0.358097467413
Kn_K36 L_L8 L_L10 0.8833063551356
Kn_K37 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param36_19

    *  Analysis frequencies: 660.0, 725.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param36_20 1 2 3 4 REF
C_C1 1 REF 22.296324521812pf
C_C2 1 3 11.46250255398pf
C_C3 2 4 34.558550039166pf
C_C4 3 REF 0.4668015852981pf
C_C5 4 REF 0.1466885758561pf
R_R1 1 REF 533.98408075267
R_R2 1 2 -3.620920341114
R_R3 1 4 -337.5500279283
R_R4 2 REF -534.2514385737
R_R5 2 4 337.6849335951
L_L1 1 5 2.2648133553928nh
R_RL1 5 REF 9.7827249252e-4
L_L2 1 6 0.3665999480664nh
R_RL2 6 2 1.196700489065
L_L3 1 7 1.7878067367263nh
R_RL3 7 3 0.448103084785
L_L4 1 8 1.3458157868336nh
R_RL4 8 4 0.7736389934679
L_L5 2 9 2.6218396363266nh
R_RL5 9 REF 1.2666721719066
L_L6 2 10 1.7123699152101nh
R_RL6 10 3 0.1802407366577
L_L7 2 11 1.1409136402536nh
R_RL7 11 4 0.0459561742363
L_L8 3 12 4.0537990068867nh
R_RL8 12 REF 0.4913006910911
L_L9 3 13 1.0754480327398nh
R_RL9 13 4 0.0441838557358
L_L10 4 14 3.6212998364248nh
R_RL10 14 REF 0.8300904237416
Kn_K1 L_L1 L_L5 0.9274580277188
Kn_K2 L_L1 L_L8 0.7476496266025
Kn_K3 L_L1 L_L10 0.7926945178733
Kn_K4 L_L2 L_L3 0.2730058268864
Kn_K5 L_L2 L_L4 0.4068167463529
Kn_K6 L_L2 L_L5 1.0
Kn_K7 L_L2 L_L6 -0.183743246069
Kn_K8 L_L2 L_L7 -0.125011951181
Kn_K9 L_L2 L_L8 1.0
Kn_K10 L_L2 L_L9 0.1030938019689
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.6634361034334
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.8954704417092
Kn_K15 L_L3 L_L7 0.5657983809786
Kn_K16 L_L3 L_L8 0.8414998535163
Kn_K17 L_L3 L_L9 -0.547174993808
Kn_K18 L_L3 L_L10 0.8921990955908
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.4896589289922
Kn_K21 L_L4 L_L7 0.8554865650956
Kn_K22 L_L4 L_L8 0.969887853046
Kn_K23 L_L4 L_L9 0.2632689715375
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L6 0.0661702062597
Kn_K26 L_L5 L_L7 0.0408934799572
Kn_K27 L_L5 L_L8 0.7612084944142
Kn_K28 L_L5 L_L9 -0.041376426819
Kn_K29 L_L5 L_L10 0.827931443498
Kn_K30 L_L6 L_L7 0.6359696684167
Kn_K31 L_L6 L_L8 0.9419067166402
Kn_K32 L_L6 L_L9 -0.606799005826
Kn_K33 L_L6 L_L10 1.0
Kn_K34 L_L7 L_L8 1.0
Kn_K35 L_L7 L_L9 0.2274952522525
Kn_K36 L_L7 L_L10 1.0
Kn_K37 L_L8 L_L9 0.361102354147
Kn_K38 L_L8 L_L10 0.8612467842771
Kn_K39 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param36_20

    *  Analysis frequencies: 725.0, 795.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param36_21 1 2 3 4 REF
C_C1 1 2 199.32332298409pf
C_C2 1 4 2.187428529665pf
C_C3 2 REF 1.7953844663042pf
C_C4 2 3 0.7519946083031pf
C_C5 3 REF 0.3837468882563pf
C_C6 4 REF 0.3955211952368pf
R_R1 1 2 -58.63880934107
L_L1 1 5 43.275046549485nh
R_RL1 5 REF 0.0069689656602
L_L2 1 6 0.1733880288475nh
R_RL2 6 2 0.0127964502204
L_L3 1 7 15.636184877094nh
R_RL3 7 3 0.0074208692711
L_L4 1 8 14.941128579897nh
R_RL4 8 4 0.0077387799992
L_L5 2 9 42.860774056365nh
R_RL5 9 REF 0.0204054461007
L_L6 2 10 15.751707944728nh
R_RL6 10 3 5.8863944875e-4
L_L7 2 11 15.064671320306nh
R_RL7 11 4 5.0432046513e-4
L_L8 3 12 58.589655946882nh
R_RL8 12 REF 0.0151516750297
L_L9 3 13 1.2908028631579nh
R_RL9 13 4 -1.030160002e-5
L_L10 4 14 57.883098968548nh
R_RL10 14 REF 0.0155151796126
Kn_K1 L_L1 L_L2 0.1072675087315
Kn_K2 L_L1 L_L5 0.9979985819078
Kn_K3 L_L1 L_L8 0.856232441598
Kn_K4 L_L1 L_L10 0.8613275481959
Kn_K5 L_L2 L_L3 0.0175715760967
Kn_K6 L_L2 L_L4 0.0154843457998
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.087409944953
Kn_K9 L_L2 L_L7 -0.091861984379
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9580331440212
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9944826939848
Kn_K15 L_L3 L_L7 0.9522115993733
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.221015682337
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9528889995969
Kn_K21 L_L4 L_L7 0.9942299433816
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.067828137259
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.855074334808
Kn_K26 L_L5 L_L10 0.8600813360259
Kn_K27 L_L6 L_L7 0.9583512932785
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.219314457661
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0684587615894
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.1148380697948
Kn_K35 L_L8 L_L10 0.9889357518151
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param36_21

    *  Analysis frequencies: 795.0, 875.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param36_22 1 2 3 4 REF
C_C1 1 REF 0.1111276442744pf
C_C2 1 2 49.840004559418pf
C_C3 1 4 0.5805124610448pf
C_C4 2 REF 0.7831949881574pf
C_C5 2 3 0.2202927905927pf
C_C6 3 REF 0.3865226401516pf
C_C7 4 REF 0.3836438501427pf
R_R1 1 2 -561.4775172861
L_L1 1 5 0.5677456801527nh
R_RL1 5 2 0.0121520891586
L_L2 1 6 61.508086708528nh
R_RL2 6 3 0.0126309265208
L_L3 1 7 60.65252508045nh
R_RL3 7 4 0.0126820071729
L_L4 2 8 62.206483863789nh
R_RL4 8 3 -7.140836662e-4
L_L5 2 9 61.358594571904nh
R_RL5 9 4 -7.244472862e-4
L_L6 3 10 1.3056135241969nh
R_RL6 10 4 -3.004951816e-5
Kn_K1 L_L1 L_L2 -0.011054555733
Kn_K2 L_L1 L_L3 -0.011785976988
Kn_K3 L_L1 L_L4 -0.106526573993
Kn_K4 L_L1 L_L5 -0.10791002684
Kn_K5 L_L2 L_L3 0.9893365838698
Kn_K6 L_L2 L_L4 0.9954267038141
Kn_K7 L_L2 L_L5 0.9846911956158
Kn_K8 L_L2 L_L6 -0.120583126743
Kn_K9 L_L3 L_L4 0.9848931919372
Kn_K10 L_L3 L_L5 0.9953634377692
Kn_K11 L_L3 L_L6 0.0252872054477
Kn_K12 L_L4 L_L5 0.9894570932373
Kn_K13 L_L4 L_L6 -0.119478648465
Kn_K14 L_L5 L_L6 0.0255698916366
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param36_22

    *  Analysis frequencies: 875.0, 960.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param36_23 1 2 3 4 REF
C_C1 1 REF 0.3168961471707pf
C_C2 1 2 20.259023010786pf
C_C3 1 3 0.0155446906962pf
C_C4 1 4 0.2628565090773pf
C_C5 2 REF 0.5888126187311pf
C_C6 2 3 0.1139062037333pf
C_C7 3 REF 0.3861839925095pf
C_C8 4 REF 0.3803235220918pf
L_L1 1 5 0.9241863628377nh
R_RL1 5 2 3.182975054e-4
L_L2 3 6 1.307879069951nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param36_23

    *  Analysis frequencies: 960.0, 1055.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param36_24 1 2 3 4 REF
C_C1 1 REF 0.3876996244741pf
C_C2 1 2 10.8811667765pf
C_C3 1 3 0.0532232693557pf
C_C4 1 4 0.1608860997612pf
C_C5 2 REF 0.5319345326305pf
C_C6 2 3 0.0790807339996pf
C_C7 3 REF 0.385106353853pf
C_C8 4 REF 0.3781743076473pf
L_L1 1 5 1.3174744252317nh
R_RL1 5 2 2.423263593e-5
L_L2 3 6 1.3058128242173nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param36_24

    *  Analysis frequencies: 1055.0, 1160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param36_25 1 2 3 4 REF
C_C1 1 REF 0.4224900005261pf
C_C2 1 2 7.0391948088975pf
C_C3 1 3 0.0731832950296pf
C_C4 1 4 0.1175116287141pf
C_C5 2 REF 0.5146609424225pf
C_C6 2 3 0.0626978487677pf
C_C7 2 4 0.0281001858575pf
C_C8 3 REF 0.3835515286834pf
C_C9 4 REF 0.3760108986415pf
L_L1 1 5 1.7576798559489nh
R_RL1 5 2 3.2140100015e-4
L_L2 3 6 1.3033895254229nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param36_25

    *  Analysis frequencies: 1160.0, 1200.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param36_26 1 2 3 4 REF
C_C1 1 REF 0.4377074693816pf
C_C2 1 2 5.7858228932423pf
C_C3 1 3 0.0833507833547pf
C_C4 1 4 0.1019434026953pf
C_C5 2 REF 0.5133380786421pf
C_C6 2 3 0.0553621353765pf
C_C7 2 4 0.0466820084405pf
C_C8 3 REF 0.3822643508577pf
C_C9 4 REF 0.3743991113483pf
L_L1 1 5 1.8821830333809nh
R_RL1 5 2 9.4359740872e-5
L_L2 3 6 1.3023301014581nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param36_26

